US07470420B2
Synthesis of 3-(3-BROMOMETHYL-5-(1,3,2)DIOXABORINAN-2-YL-BENZYLOXY)-PROPAN-1-OL
An oven-dried, 250-mL round bottom flask equipped with a magnetic stirring bar and reflux condenser was cooled under argon and charged with NaH (0.800 g of 60% in mineral oil, 20 mmols). The powder was washed with pentane (3×100 mL) and dried in vacuum. Acetonitrile (50 mL) was added by syringe and the mixture stirred at room temperature. 1,3-Propane diol (10 mL) was added dropwise over ten min. to form a white insoluble precipitate. The suspension was vigorously stirred for one hour at which time 20 mL was taken up by syringe and added dropwide to a 250-mL round bottom flask charged with 2-(3,5-Bis-bromomethyl-phenyl)-(1,3,2)dioxaborinane (2.865 g, 8.2 mmols) and acetonitrile (50 mL). The mixture was stirred for 12 hr at room temperature. A reflux condenser was attached along with a vacuum adapter and the reaction mixture was heated to reflux under argon for two hours. The acetonitrile was removed in vacuo and the residue purified by flash chromatography (EtOAc:hexane, 2:1). Removal of solvents gave a suspension of white solids in a yellow oil, which when analyzed by thin layer chromatography showed no starting material. The crude mixture containing 1,3-propane diol was used without further purification.

reactant | NaH | 20 mmols, 0.800 g | [H-].[Na+]
reactant | 2-(3,5-Bis-bromomethyl-phenyl)-(1,3,2)dioxaborinane | 8.2 mmols, 2.865 g | BrCC=1C=C(C=C(C1)CBr)B1OCCCO1 | C11H13BBr2O2
reactant | 1,3-propane diol | C(CCO)O | C3H8O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-(3-BROMOMETHYL-5-(1,3,2)DIOXABORINAN-2-YL-BENZYLOXY)-PROPAN-1-OL | BrCC=1C=C(COCCCO)C=C(C1)B1OCCCO1 | C14H20BBrO4
